US07268150B2
To a solution of 3.0 g of tert-butyl piperidin-4-ylcarbamate in 60 ml of methylene chloride, were added 2.5 ml of triethylamine, 2.4 g of HOBt, 1.3 g of hydroxyacetic acid and 3.5 g of WSCD hydrochloride, and the reaction mixture was stirred at room temperature for 18 hours. 1 M hydrochloric acid was added to the reaction mixture, and this was extracted with EtOAc. The organic layer was washed with aqueous saturated sodium hydrogencarbonate solution, water and brine. This was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified with silica gel column chromatography (eluent: chloroform/MeOH=50/1) to obtain 2.8 g of tert-butyl [1-(hydroxyacetyl)piperidin-4-yl]carbamate.

reactant | tert-butyl piperidin-4-ylcarbamate | 3.0 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | HOBt | 2.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydroxyacetic acid | 1.3 g | OCC(=O)O | C2H4O3
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl [1-(hydroxyacetyl)piperidin-4-yl]carbamate | 2.8 g | OCC(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C12H22N2O4
